Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I took 9 extended release Adderall yesterday... I thought maybe 
my heart would speed up and I'd die"
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
Mr. ___ is a ___ year old man with no formal psychiatric 
history who presented to the emergency department by ambulance 
after smoking marijuana and feeling lost in a park.  On initial 
interviews, he was very tearful and guarded.  He did express a 
suicide attempt by overdose on Adderall two days ago. He also 
endorsed depressed mood, anxiety, poor sleep, poor appetite with 
weight loss, and hopelessness.  

On admission interview, he continued to be very tearful and 
guarded.  States since ___, he has been struggling with anxiety 
that prevents him from doing the things he enjoys.  This anxiety 
seems to stem for a physical sensation he experiences that 
causes him to feel as if he will have fecal incontinence.  As 
far as I can ascertain, he has never experienced fecal 
incontinence.  He has pulled away from socializing and hasn't 
been able to attend work in the last week due to his anxiety.  
Reports he has not slept well over the last two weeks due to 
anxious thoughts preventing him from falling asleep.  He 
developed suicidal ideation with the plan to overdose on his 
Adderall the same day he attempted.  When asked how he is 
feeling now, patient replies "I don't know...I've never felt his 
emotion before".  He gave verbal permission to talk with his 
outpatient doctor as well as his mother.  

 
Past Medical History:
Two year report of rectal pressure, no organic etiology 
identified.  S/p flex sig without any abnormality identified. 
 
Social History:
___
Family History:
None to patient's knowledge
 
Physical Exam:
VS: Temp: 98.2 PO BP: 114/81 HR: 98 RR: 16 O2 sat: 98% 

General- awake/alert, tearful, thin
Skin- warm, dry 
HEENT- moist mucous membranes, no scleral icterus 
Neck and Back- supple
Lungs- clear to auscultation bilaterally 
CV- RRR, no murmur appreciated 
Abdomen: +BS, soft, non-tender 
Extremities- no swelling, no calf tenderness 
Neuro:
CN:  pupils symmetry and responsiveness to light and 
accommodation
     EOM: intact
     facial sensation to light touch 
     facial symmetry on eye closure and smile: intact and no 
asymmetry
     hearing bilaterally to rubbing fingers: intact
     phonation: normal
     head turning and shoulder shrug: normal bilaterally
     tongue: midline, no atrophy

Motor:
___ strength in upper/lower extremities 

Sensation: intact to touch 
Coordination: Finger-nose-finger intact 
Gait/Romberg: stable

Neuropsychiatric Examination:
  *Appearance: age appearing, adequate grooming, wearing 
hospital gown 
  Behavior: tearful, guarded
  *Mood and Affect: "I don't know"; tearful/anxious affect 
  *Thought process: guarded but linear 
  *Thought Content: denies suicidal ideation today, no 
indication for homicidal ideation; no concern for response to 
internal stimuli; focused on physical sensation in rectum as 
main source
for his anxiety 
  *Judgment and Insight: impaired/impaired 

  Cognition:
    *Attention, *orientation: oriented to ___, ___ and ___.  
Reported day of week was ___ and date was the ___. 
    *Memory: grossly intact 
    *Fund of knowledge: average 
    Abstraction: apple/orange= fruits; bike/train = wheels and 
gears
    *Speech: guarded responses but normal rate/rhythm 
    *Language: fluent ___ 

 
Pertinent Results:
___ 08:00PM BLOOD WBC-9.7 RBC-5.27 Hgb-16.6 Hct-46.5 MCV-88 
MCH-31.5 MCHC-35.7 RDW-12.9 RDWSD-42.0 Plt ___
___ 08:00PM BLOOD Neuts-67.1 ___ Monos-7.3 Eos-0.4* 
Baso-0.6 Im ___ AbsNeut-6.52* AbsLymp-2.37 AbsMono-0.71 
AbsEos-0.04 AbsBaso-0.06
___ 08:00PM BLOOD Glucose-75 UreaN-6 Creat-0.9 Na-140 
K-3.4* Cl-98 HCO3-23 AnGap-19*
___ 08:00PM BLOOD ASA-NEG Acetmnp-NEG Tricycl-NEG
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout his admission. He was initially placed on 15 minute 
checks status. After expressing further suicidal ideation, he 
was placed on 5 minute checks for one day until his mood 
stabilized and he returned to ___ checks. He remained on 
that level of observation for the remainder of his 
hospitalization while being unit restricted.

2. PSYCHIATRIC:
#) On admission, the patient was extremely anxious and tearful, 
with active suicidal ideation. Differential for current 
presentation included major depressive disorder and unspecified 
anxiety disorder, in addition to adjustment disorder, given 
onset of symptoms following move from parent's home. However, it 
appeared that at developmental latency contributed significantly 
to current presentation; patient's limited comprehension of the 
severity of his actions and finality of suicide may be 
normative, especially in the context of heavy substance use 
beginning in adolescence and developmental trauma. Impulsivity 
also suggestive of incomplete frontal lobe development. 
.
To help with initial severe anxiety lorazepam 1mg BID PRN was 
offered with good effect.  Given what seemed to be longstanding 
history of anxiety resulting in reduced functioning (quit job, 
not social with friends), we discussed trial with SSRI.  After 
discussion of risks/benefits, he agreed to start Prozac 20mg 
daily.   He was also started on mirtazapine 7.5mg QHS, with 
improvement in sleep and appetite. His anxiety and mood 
stabilized over his course and he began to fully engage in the 
treatment program, with active participation in groups and 
discussion with his care team.  Patient's suicidal ideation 
abated, and he began to discuss his goals/plans for the future. 
The day prior to discharge, team had a family meeting with the 
patient and his parents to discuss discharge and plans for the 
future. The patient expressed a willingness to engage in 
outpatient care, including follow-up with a therapist and 
psychiatrist, as well as a short-term dual diagnosis partial 
program.  Plan for discharge home with his mother was made. On 
the day of discharge, the patient demonstrated a euthymic affect 
and linear thought process, with a "good" mood, improved 
judgment and insight, and lack of suicidal ideation or thoughts 
of harming himself.  ___ later approached team and reported 
he would be leaving with his cousin.  The patient's mother was 
notified and reported that she would not like him discharged 
with this cousin and she planned to pick him up.  After a 
conversation with his father, ___ affect changed and 
became defiant.  Despite multiple attempts and meeting with his 
mother and father on speaker phone, patient ultimately refused 
to discharge home with his parents. Although patient's mother 
expressed concern about his decision, she did not express acute 
concern about patient's potential for self-harm; she appraised 
patient's previous suicide attempt as a manifestation of poor 
distress tolerance, rather than a manifestation of major 
depressive disorder. When asked about alternative plan, patient 
states he would go to homeless shelter in the ___ area. 
Patient was provided with shelter resources in that area.  We 
strongly urged the patient to return home. At time of discharge, 
cab was provided and patient was being taken to his mentor's 
place of work. 
.
3. SUBSTANCE USE DISORDERS:
#) Cannabis use disorder - we discussed with the patient and his 
family the importance in abstaining from cannabis use after 
discharge. We discussed the concept of rebound anxiety and other 
risks associated with cannabis use. The patient plans for a dual 
diagnosis partial program to address his cannabis use and assist 
in cessation. 
.
4. MEDICAL
#) Rectal pressure - likely manifestation of somatic symptom 
disorder. The patient is followed as an outpatient with GI and 
is planning for an MRI in the future, however, work-up thus far 
including flex sig without pathology. No acute changes in this 
complaint were addressed during this admission. 
.
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was initially isolative but later became quite 
engaged in group activities including coping skills.  He was 
encouraged to participate in the various groups and milieu 
therapy opportunities offered by the unit. The patient often 
attended these groups, especially those that focused on coping 
skills, such as meditation. The patient was generally pleasant 
in the milieu, socializing with peers and interactive with 
staff. 
.
#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
Contact was made with the patient's mother and pediatrician for 
additional information regarding the patient's past medical and 
psychiatric history, as well as his current living situation and 
relationship with his father. The patient's parents were 
involved in his care and attended a family meeting prior to 
discharge with initial plan for discharge home to their care.
.
#) INTERVENTIONS
- Medications: Mirtazapine 7.5mg QHS, fluoxetine 20mg QHS, 
lorazepam 1mg BID PRN
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: dual diagnosis partial program at 
___ beginning ___.  Referral to psychiatry at ___ 
___. 
- Behavioral Interventions: Encouraged development of new coping 
skills via participation in groups
.
INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting Prozac and mirtazpine, and risks and benefits of 
possible alternatives, including not taking the medication, with 
this patient.  We discussed the patient's right to decide 
whether to take this medication as well as the importance of the 
patient's actively participating in the treatment and discussing 
any questions about medications with the treatment team.  The 
patient appeared able to understand and consented to begin the 
medication.
.
RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to himself based upon his recent suicide 
attempt. His static risk factors noted at that time include 
history of abuse, history of substance abuse, significant 
stressors in the home and recently with no stable place to live, 
limited coping abilities, no mental health outpatient providers, 
age, and male gender. The modifiable risk factors addressed 
during hospitalization included improving social supports, 
connection to outpatient resources (PHP and outpatient 
providers), resolved suicidal ideation, improved coping skills.  
These risk factors were addressed via medication intervention to 
stabilize the patient's mood and further discussion and advice 
about coping skills and management of recent life stressors and 
aftercare coordination. Finally, the patient is being discharged 
with many protective risk factors, including help-seeking 
nature, future-oriented viewpoint, family support, and 
established providers and ongoing care.  Despite patient not 
discharging home to his parents, at time of discharge he 
displayed no active suicidal ideation and no gross impairments 
to thought process that would impair his judgment. Overall, 
based on the totality of our assessment at this time, the 
patient is not at an acutely elevated risk of self-harm nor 
danger to others. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amphetamine-Dextroamphetamine XR 20 mg PO DAILY 

 
Discharge Medications:
1.  FLUoxetine 20 mg PO DAILY 
RX *fluoxetine 20 mg 1 capsule(s) by mouth daily Disp #*15 
Capsule Refills:*0 
2.  Mirtazapine 7.5 mg PO QHS 
RX *mirtazapine 7.5 mg 1 tablet(s) by mouth at bedtime Disp #*15 
Tablet Refills:*0 
3.  Nicotine Lozenge 2 mg PO Q1H:PRN Tobacco cravings 
RX *nicotine (polacrilex) 2 mg 1 lozenge Q4hrs PRN Disp #*27 
Lozenge Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cannabis use disorder
Unspecified anxiety disorder 

 
Discharge Condition:
Vitals: Temp 98.5 BP 108/55 HR 61 RR 16 O2 Sat 99% RA

MSE: 
 Neurological:
    station and gait: stable
    tone and strength: grossly intact, moves all extremities
against gravity with ease 

  Appearance: appropriate grooming
  Behavior: improved eye contact; well engaged
  Mood and Affect: 'good'/full range of affect, euthymic
  Thought process: linear; no loosening of associations
  Thought Content: no thoughts of harming self or SI, no
hallucinations or obvious delusions/paranoia
  Judgment and Insight: improved/improved
  Cognition:
    Attention, orientation, and executive function: attentive 
and
oriented to interview
    Memory: grossly intact
    Speech: normal tone and rate
    Language: fluent ___

 
Discharge Instructions:
You were hospitalized at ___ for anxiety, suicidal thoughts, 
and cannabis use disorder.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___